US07691879B2
To a suspension of 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile (150 mg) in 15 mL isopropanol was added to 6 mL of a 0.81 M solution of 4-amino-1-butene. The mixture was heated to reflux for 4 days, then cooled to room temp and partitioned between EtOAc and saturated aqueous sodium bicarbonate. The organic solutions were washed with brine (1×), dried over MgSO4, and concentrated. Flash chromatography (3% to 50% EtOAc in hexanes) provided 146 mg of 1-(but-3-enylamino)-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile as a tan solid.

reactant | 1-chloro-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | 150 mg | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C17H10ClFN2O
reactant | 4-amino-1-butene | NCCC=C | C4H9N
solvent | isopropanol | 15 mL | C(C)(C)O | C3H8O
product | 1-(but-3-enylamino)-4-(3-fluorophenyl)-6-methoxyisoquinoline-3-carbonitrile | 146 mg | C(CC=C)NC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC(=CC=C1)F)C#N | C21H18FN3O
